US07612114B2
Synthesized from [4-(2-diisopropylaminoethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (70 mg) according to an analogous synthetic method to Example 111, 3-[4-(2-diisopropylaminoethoxy)benzylamino]-4-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenol (25 mg) and 6-{2-[4-(2-diisopropylaminoethoxy)benzylamino]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol (29 mg) were obtained. 3-[4-(2-Diisopropylaminoethoxy)benzylamino]-4-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenol:

reactant | [4-(2-diisopropylaminoethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 70 mg | C(C)(C)N(CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)C=C1)C(C)C | C33H44N2O3
reactant | 3-[4-(2-diisopropylaminoethoxy)benzylamino]-4-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenol | 25 mg | C(C)(C)N(CCOC1=CC=C(CNC=2C=C(C=CC2C2CC3=CC=C(C=C3CC2)OC)O)C=C1)C(C)C | C32H42N2O3
product | 6-{2-[4-(2-diisopropylaminoethoxy)benzylamino]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 29 mg | C(C)(C)N(CCOC1=CC=C(CNC2=C(C=CC(=C2)O)C2CC=3C=CC(=CC3CC2)O)C=C1)C(C)C | C31H40N2O3
